US09403835B2
Step 2: 3-(2-Carboxy-5-fluoro-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (1.19 g; 13.13 mmol; 5.5 eq.) and sodium dihydrogenphosphate (1.03 g; 8.59 mmol; 3.6 eq.) in water (7 mL) was added dropwise to a mixture of 2-methyl-2-butene (2.39 mL) and 3-(5-fluoro-2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester (705 mg; 2.39 mmol; 1 eq.) in 1,4-dioxane (7 mL). The reaction mixture was stirred at room temperature for 16 hours and the 1,4-dioxane concentrated in vacuo. The aqueous solution was diluted with water and the pH made acidic with 0.1M HCl. The precipitate was filtered off and dried to afford the title compound (625 mg, 84%) as a white solid. 1H NMR (CDCl3) δ 8.17 (dd, J=8.8, 6.7 Hz, 1H), 6.85 (ddd, J=8.9, 7.6, 2.3 Hz, 1H), 6.35 (dd, J=9.9, 2.3 Hz, 1H), 5.25-4.87 (m, 1H), 4.41 (ddd, J=10.1, 6.4, 1.2 Hz, 2H), 4.11 (ddd, J=10.0, 4.0, 1.1 Hz, 2H), 1.45 (s, 9H). HPLC (max plot) 96.4%; Rt 3.60 min.

reactant | sodium chlorite | 13.13 mmol, 1.19 g, 5.5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 8.59 mmol, 1.03 g, 3.6 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 2.39 mL | CC(C)=CC | C5H10
reactant | 3-(5-fluoro-2-formyl-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 2.39 mmol, 705 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)F)C=O | C15H18FNO4
solvent | water | 7 mL | O | H2O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Carboxy-5-fluoro-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 625 mg, 84% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)F)C(=O)O | C15H18FNO5
